US06916808B2
Preparation of 2-octylthio-6-methyl-4H-3,1-benzoxazin-4-one
2-Amino-5-methylbenzoic acid (1.51 g, 10 mmol) was dissolved in pyridine (10 ml), and to this was added the crude octyl chlorothiolformate (28 mmol, assuming 100% from the first step) as a solution in toluene. After 2 h, the reaction was diluted with ethyl acetate and washed three times with 1M aqueous HCl, then saturated aqueous sodium bicarbonate, water and brine. The organic phase was dried (MgSO4) and concentrated in vacuo. Crystallisation from hexane gave the title compound (155 mg, 5%): δH (400 MHz, CDCl3) 0.91 (3H, t, J 7.0, Me), 1.30-1.34 (8H, m, 4×CH2), 1.44-1.50 (2H, m, SCH2CH2CH2), 1.79 (2H, qn, J 7.4, SCH2CH2), 2.46 (3H, s, ArMe), 3.16 (2H, t, J 7.3, SCH2), 7.38 (1H, d, J 8.2, ArH), 7.58 (1H, dd, J 8.2, 1.8, ArH), 7.93 (1H, s, ArH); m/z (ES+) 306 (MH+).

reactant | 2-Amino-5-methylbenzoic acid | 10 mmol, 1.51 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | octyl chlorothiolformate | ClC1=C(SC=C1)C(=O)OCCCCCCCC | C13H19ClO2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-octylthio-6-methyl-4H-3,1-benzoxazin-4-one | 155 mg, 5% | C(CCCCCCC)SC1=NC2=C(C(O1)=O)C=C(C=C2)C | C17H23NO2S
